US06521754B2
N-Benzothiazol-2-yl-benzamide
Using 2-amino-benzothiazole and benzoyl chloride in pyridine the title compound was obtained as a white solid (87% yield), MS: m/e=255.1 (M+H+).

reactant | 2-amino-benzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-Benzothiazol-2-yl-benzamide | S1C(=NC2=C1C=CC=C2)NC(C2=CC=CC=C2)=O | C14H10N2OS
